* ===========================================================================
* Behavioural SPICE models for the Class D amplifier
* ===========================================================================
*
* The four ICs on this board have no SPICE model anyone ships: the HIP4082
* has none at all, and the TL074/LM311/CD4049 vendor macromodels are licence
* gated.  These are behavioural stand-ins built only from primitives that
* EVERY ngspice build understands -- B, E, G, R, C and lossless T-lines.
*
* That restriction is deliberate.  KiCad's own class-D demo builds its dead
* time from XSPICE digital primitives (d_inverter, d_pwm), but XSPICE code
* models are not compiled into every ngspice, so a sheet that depends on them
* runs for some people and not others.  Propagation delay here comes from a
* terminated T-line instead, which is core SPICE and behaves identically
* everywhere.
*
* Every number below is the datasheet figure recorded in docs/BUILD-NOTES.md.
* These model the behaviour the design depends on -- gain, bandwidth, slew,
* rail limits, propagation delay, dead time, the bootstrap supply -- and
* nothing else.  They are NOT a substitute for the real parts' second-order
* behaviour.
*
* The IRF540N is the exception: KiCad ships a real VDMOS card for it, body
* diode included, so the bridge uses that rather than anything invented here.
* ===========================================================================


* --------------------------------------------------------------------------
* TL074 section -- single-pole op-amp with slew limit and rail clamp
*   Avol 100k, GBW 5.25 MHz typ, slew 20 V/us typ  (TI SLOS080W)
*   Output clamps 1.5 V from each rail, matching the light-load swing spec.
*   NOTE: the real part's input common-mode floor is V- + 4 V, which this
*   model does NOT enforce.  It is the design's known risk, so check the
*   simulated input node against that floor rather than trusting the output.
* --------------------------------------------------------------------------
.subckt OPAMP_TL074 inp inn out vp vn
.param gm=1m rp=1e8 cp=30.3p ilim=606u hr=1.5
Rin  inp inn 1e9
* transconductance stage; tanh() saturation sets the slew rate (ilim/cp)
Bg   0 nint I = {ilim}*tanh({gm}*(V(inp)-V(inn))/{ilim})
Rp   nint 0 {rp}
Cp   nint 0 {cp}
* Output buffer, clamped inside the rails by a SMOOTH limiter.
* min()/max() would clamp just as well but their derivative is discontinuous,
* which stalls Newton: a plain follower fails to find an operating point at
* all, and an open-loop .ac at a clamped bias point reports zero gain because
* the derivative it linearises is the constant branch. tanh() has neither
* problem. Centre is mid-supply, half-span reaches to hr from each rail.
Bo   nbuf 0 V = 0.5*(V(vp)+V(vn))
+ + 0.5*(V(vp)-V(vn)-2*{hr})*tanh( 2*(V(nint)-0.5*(V(vp)+V(vn)))
+ / (V(vp)-V(vn)-2*{hr}) )
Ro   nbuf out 100
.ends OPAMP_TL074


* --------------------------------------------------------------------------
* LM311 comparator -- open-collector output, referenced to its own GND pin
*   Response time 165 ns typ at 5 mV overdrive  (TI SLCS007K)
*   VOL 0.23 V typ at 8 mA -> modelled as a 25 ohm switch to the GND pin.
*   Pins: inp inn out oe vp vn      (oe = pin 1, the output emitter)
* --------------------------------------------------------------------------
.subckt CMP_LM311 inp inn out oe vp vn
.param tpd=165n
Rin  inp inn 1e12
* Saturating high-gain stage -> clean logic level for the delay line.
* Sign matters: the LM311's output transistor turns OFF when + is above -, so
* with a pull-up the output goes HIGH. The comparator is NON-inverting. Wiring
* this the other way round turns any oscillator built from it into a latch.
Bc   nc 0 V = 2.5*tanh(1e4*(V(inn)-V(inp)))
* pure propagation delay, terminated so nothing reflects
Td   nc 0 nd 0 Z0=1k TD={tpd}
Rt   nd 0 1k
* open collector: conducts to the emitter pin when the comparator is LOW
Sq   out oe nd 0 SW_OC
.model SW_OC SW(Ron=25 Roff=1e9 Vt=0 Vh=0.5)
.ends CMP_LM311


* --------------------------------------------------------------------------
* CD4049UB inverting buffer -- rail to rail, supply referenced
*   tPHL ~18 ns / tPLH ~28 ns typ at 12 V  (TI SCHS046L, interpolated)
*   One symmetrical delay is used; the asymmetry is far below the dead time.
* --------------------------------------------------------------------------
.subckt INV_CD4049 in out vcc vss
.param tpd=25n
* inverting, switching at half supply, clamped to the rails
Bi   ni 0 V = V(vss) + (V(vcc)-V(vss))*0.5*(1 - tanh(40*(V(in)-0.5*(V(vcc)+V(vss)))))
Td   ni 0 nd 0 Z0=1k TD={tpd}
Rt   nd 0 1k
Bo   nb 0 V = V(nd)
Ro   nb out 200
.ends INV_CD4049


* --------------------------------------------------------------------------
* HIP4082 full-bridge driver -- dead time, shoot-through lockout, bootstrap
*
*   Dead time is set on the real part by one resistor on DEL; pass the value
*   you fitted, e.g. X1 ... DRV_HIP4082 tdead=200n for R12 = 3k3.
*
*   Turn-ON is delayed by tdead while turn-OFF is immediate.  That is done by
*   ANDing each command with a delayed copy of itself, which is the same
*   one-shot the real part implements, and it guarantees the two outputs of a
*   leg can never overlap.
*
*   The high-side drivers are powered from the ACTUAL xHB pin and referenced
*   to xHS, so the bootstrap diode and capacitor on the sheet are genuinely
*   exercised -- if the bootstrap fails to charge, the high side stops
*   driving, exactly as it would on the bench.
*
*   All sixteen pins of the real part are present, so the subcircuit maps
*   one-to-one onto KiCad's stock Driver_FET:HIP4082xP symbol and a testbench
*   sheet looks exactly like the board. DIS is implemented (active high, it
*   forces all four outputs off). DEL is present for connectivity only -- a
*   subcircuit cannot read the resistor hung on it, so pass the dead time you
*   designed for instead, e.g. tdead=200n for R12 = 3k3.
* --------------------------------------------------------------------------
.subckt DRV_HIP4082 ahi ali bhi bli ahb ahs aho alo bhb bhs bho blo vdd vss del dis
.param tdead=200n vih=2.7 rdrv=5

* ---- input comparators against the real 2.7 V threshold -------------------
Bahi nahi 0 V = 0.5*(1+tanh(50*(V(ahi)-V(vss)-{vih})))
Bali nali 0 V = 0.5*(1+tanh(50*(V(ali)-V(vss)-{vih})))
Bbhi nbhi 0 V = 0.5*(1+tanh(50*(V(bhi)-V(vss)-{vih})))
Bbli nbli 0 V = 0.5*(1+tanh(50*(V(bli)-V(vss)-{vih})))

* ---- DIS is active high and overrides everything (FN3676 truth table)
Bdis ndis 0 V = 0.5*(1+tanh(50*(V(dis)-V(vss)-{vih})))
Ben  nen  0 V = 1-V(ndis)
Rdel del vss 1e9

* ---- shoot-through lockout: a leg's output is commanded only if the
* ---- opposite input is low, so both high is both off, as the truth table says
Bahc nahc 0 V = V(nen)*V(nahi)*(1-V(nali))
Balc nalc 0 V = V(nen)*V(nali)*(1-V(nahi))
Bbhc nbhc 0 V = V(nen)*V(nbhi)*(1-V(nbli))
Bblc nblc 0 V = V(nen)*V(nbli)*(1-V(nbhi))

* ---- dead time: AND each command with a delayed copy of itself.
* ---- Rising edge is delayed by tdead; falling edge passes straight through.
Tah nahc 0 nahd 0 Z0=1k TD={tdead}
Rtah nahd 0 1k
Tal nalc 0 nald 0 Z0=1k TD={tdead}
Rtal nald 0 1k
Tbh nbhc 0 nbhd 0 Z0=1k TD={tdead}
Rtbh nbhd 0 1k
Tbl nblc 0 nbld 0 Z0=1k TD={tdead}
Rtbl nbld 0 1k

Bahg nahg 0 V = V(nahc)*V(nahd)
Balg nalg 0 V = V(nalc)*V(nald)
Bbhg nbhg 0 V = V(nbhc)*V(nbhd)
Bblg nblg 0 V = V(nblc)*V(nbld)

* ---- high-side drivers: powered from the bootstrap cap, referenced to xHS
Eah nah ahs VALUE = { (V(ahb)-V(ahs)) * V(nahg) }
Rdah nah aho {rdrv}
Ebh nbh bhs VALUE = { (V(bhb)-V(bhs)) * V(nbhg) }
Rdbh nbh bho {rdrv}

* ---- low-side drivers: powered from VDD, referenced to VSS
Eal nal vss VALUE = { (V(vdd)-V(vss)) * V(nalg) }
Rdal nal alo {rdrv}
Ebl nbl vss VALUE = { (V(vdd)-V(vss)) * V(nblg) }
Rdbl nbl blo {rdrv}

* ---- quiescent load so the bootstrap pins are never left floating, and a
* ---- leakage path from each switch node to VSS.  Without the latter, a leg
* ---- left unused in a testbench has NO DC path to ground and ngspice hangs
* ---- looking for an operating point that does not exist.
Rahb ahb ahs 1e7
Rbhb bhb bhs 1e7
Rlka ahs vss 1e8
Rlkb bhs vss 1e8
.ends DRV_HIP4082


* --------------------------------------------------------------------------
* Bootstrap Schottky, standing in for the 1N5817 fitted as D2/D3.
* 20 V / 1 A Schottky: low Vf so the bootstrap cap charges close to the rail.
* --------------------------------------------------------------------------
.model DSCH D(Is=1e-8 Rs=0.05 N=1.05 Cjo=200p Vj=0.4 Bv=20)
